US04822375
5-Benzyloxy-6-butoxyindole
8.6 g of activated iron are added at 60° C. to a solution of 28 ml of absolute ethanol and 14 ml of acetic acid. The mixture is kept for 15 minutes at 80° C. and 5-benzyloxy-4-butoxy-2,β-dinitrostyrene (1.6 g; 0.0043 mole) is added. The mixture is left at 80° C. for 1 hour, and the ferric sludge is filtered off and rinsed with 40 ml of ethanol and 40 ml of acetic acid. The filtrate is diluted with 100 ml of ice-cold water. After extraction of the solution with methylene chloride and drying of the organic phase over sodium sulphate, the organic phase is concentrated and chromatographed on silica 60 (eluent: toluene/CH2Cl2, 50:50). 0.5 g (40% yield) of the expected derivative is obtained.

reactant | ethanol | 28 ml | C(C)O | C2H6O
reactant | 5-benzyloxy-4-butoxy-2,β-dinitrostyrene | 0.0043 mole, 1.6 g | C(C1=CC=CC=C1)OC=1C(=CC(=C(C=C[N+](=O)[O-])C1)[N+](=O)[O-])OCCCC | C19H20N2O6
catalyst | iron | 8.6 g | [Fe] | Fe
solvent | acetic acid | 14 ml | C(C)(=O)O | C2H4O2
product | 5-Benzyloxy-6-butoxyindole | 40% yield | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1OCCCC | C19H21NO2
